US06103718
C. (cis)-2-(3,4-Dimethoxybenzoyl)-1,2,3,6-tetrahydrobenzoic acid
Prepared from 1,2-dimethoxybenzene and cis-1,2,3,6-tetrahydrophthalic anhydride as described for compound A. M.p. 110°-112° C.

reactant | 1,2-dimethoxybenzene | COC1=C(C=CC=C1)OC | C8H10O2
reactant | cis-1,2,3,6-tetrahydrophthalic anhydride | C1([C@H]2[C@@H](C(=O)O1)CC=CC2)=O | C8H8O3
product | (cis)-2-(3,4-Dimethoxybenzoyl)-1,2,3,6-tetrahydrobenzoic acid | COC=1C=C(C(=O)[C@@H]2[C@H](C(=O)O)CC=CC2)C=CC1OC | C16H18O5
